US06958383B2
2.4 g of 1-bromomethylcyclopropylketone and 5.8 cm3 of pyridine are introduced into a three-necked flask containing 40 cm3 of ethanol and then the mixture is heated for 2 hours under reflux. After concentrating to dryness at 40° C. under reduced pressure (2.7 kPa), the residue is taken up in twice 30 cm3 of diethyl ether. After filtration, washing with diethyl ether, the precipitate is dried under reduced pressure (90 Pa) to give 3.4 g of 1-cyclopropylcarbonylmethylpyridinium bromide in the form of a cream-coloured solid melting at 160° C.

reactant | 1-bromomethylcyclopropylketone | 2.4 g | BrCC1(CC1)C(=O)C1(CC1)CBr | C9H12Br2O
reactant | pyridine | 5.8 cm3 | N1=CC=CC=C1 | C5H5N
solvent | ethanol | 40 cm3 | C(C)O | C2H6O
product | 1-cyclopropylcarbonylmethylpyridinium bromide | 3.4 g | [Br-].C1(CC1)C(=O)C[N+]1=CC=CC=C1 | InChI=1S/C10H12NO.BrH/c12-10(9-4-5-9)8-11-6-2-1-3-7-11;/h1-3,6-7,9H,4-5,8H2;1H/q+1;/p-1
